Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: abdominal pain 
 
Major Surgical or Invasive Procedure:
ERCP 

 
History of Present Illness:
___ year old male with history of chronic pancreatitis who
presented to ___ for abdominal pain and transferred for
ERCP.  He reports four days of abdominal pain.   He was first
seen at ___ but left ___, and today went to ___.  He
denies fever, chills, nausea or vomiting, cough, or dyspnea.  He
reports he did have chills last night, and that the abdominal
pain is right in the middle of his abdomen but goes just to the
left, into the lower chest, and did go to the back but is
improving from the pain medicines.  He reports he was jaundiced
at OSH.  Patient denies diarrhea and dysuria. At the OSH, total
bilirubin was 7.5.  Ultrasound showed distal common hepatic
ductal obstruction.

In the ED, initial vitals were 98.8 89 157/83 16 94% RA.  Labs
showed WBC 12.2, ALT 105, AST 77, AP 348, Tbili 7.0, lipase 94. 
Blood and urine cultures were sent.  He was given 4 mg IV
hydromorphone, piperacillin-tazobactam, and his home 
rosuvastatin
and levothyroxine, as well as ___ liters LR.  He went for ERCP. 
 
Currently, patient reports ___ abdominal pain after getting 
pain
medication.  There is no dyspnea, fevers or chills.

 
Past Medical History:
Chronic pancreratitis
Hyperlipidemia
Hypothyroidism
s/p Knee arthroscopy
s/p Knee arthroplasty
s/p Meniscectomy
 
Social History:
___
Family History:
Father with lymphoma

 
Physical Exam:
GEN: Alert, oriented to name, place and situation.no acute signs 
of distress. Walking energetically around the floor, anxious to 
leave   
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, mildly tender in epigastric area, non-distended, +
bowel sounds.  
EXTR: No lower leg edema
DERM: No active rash.  
Neuro: moves all four extremities purposefully, non-focal.  
PSYCH: Appropriate and calm.  

 
Pertinent Results:
Admission Labs 
___ 10:14PM BLOOD WBC-12.2* RBC-4.57* Hgb-13.0* Hct-39.2* 
MCV-86 MCH-28.4 MCHC-33.2 RDW-14.2 RDWSD-44.3 Plt ___
___ 10:14PM BLOOD ___ PTT-33.7 ___
___ 10:14PM BLOOD Glucose-121* UreaN-10 Creat-0.8 Na-137 
K-3.5 Cl-101 HCO3-22 AnGap-14
___ 10:14PM BLOOD ALT-105* AST-77* AlkPhos-348* 
TotBili-7.0* DirBili-6.2* IndBili-0.8
___ 11:01AM BLOOD Albumin-3.3* Calcium-8.4 Phos-2.5* Mg-1.9
___ 07:20AM BLOOD CEA-3.3
___ 07:20AM BLOOD CA ___ -PND

EUS:
4 cm mass lesion pancreatic head.  Question malignancy versus
inflammation.  Fine-needle biopsy performed.

ERCP: 
A 2 cm distal CBD stricture noted.  Sphincterotomy, cytology
brushings, and plastic stent placement performed.

Final Report 
EXAMINATION:  CTA ABD AND PELVIS 
  
INDICATION:  ___ year old man with new pancreatic mass on ERCP// 
Please perform 
CTA pancreas protocol 
  
TECHNIQUE:  Abdomen and pelvis CTA: Non-contrast and multiphasic 
post-contrast 
images were acquired through the abdomen and pelvis. 
Oral contrast was not administered. 
MIP reconstructions were performed on independent workstation 
and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 4.8 s, 31.4 cm; CTDIvol = 8.9 mGy 
(Body) DLP = 272.7 
mGy-cm. 
   2) Spiral Acquisition 7.9 s, 51.4 cm; CTDIvol = 8.5 mGy 
(Body) DLP = 431.7 
mGy-cm. 
 Total DLP (Body) = 704 mGy-cm. 
  
COMPARISON:  Ultrasound dated ___ 
  
FINDINGS:  
  
LOWER CHEST: There is subsegmental atelectasis at the lung bases 
bilaterally.  
There is no pleural effusion.  The heart is not enlarged.  
Coronary artery 
calcifications are noted. 
  
ABDOMEN: 
  
HEPATOBILIARY: 
The liver demonstrates normal morphology and attenuation.  There 
is an 
ill-defined enhancing mass in segment ___ at the dome measuring 
3.5 cm (series 
5, image 14).  No other focal liver lesion identified. 
There is no intrahepatic biliary duct dilatation.  Pneumobilia 
is noted 
predominantly in the left lobe.  There has been interval 
insertion of a 
biliary stent. 
The gallbladder is not distended.  Small amount of gas within 
the gallbladder 
lumen is likely due to recent ERCP. 
  
PANCREAS: 
The pancreas is mildly diffusely atrophic.  Numerous parenchymal 
and 
intraductal calcifications are noted suggestive of chronic 
pancreatitis. 
There is a lobulated hypodense mass within the 
pancreaticoduodenal groove 
measuring 3 x 4.8 x 4 cm.  The pancreatic head is not CT 
separately from this 
mass.  There is mass effect on the first and second portions of 
the duodenum 
which are displaced laterally without evidence of obstruction.  
Fat stranding 
is noted surrounding this mass. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions.  15 mm splenule is noted at the level 
of the 
splenic hilum adjacent to the tail of the pancreas. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. 
There is no evidence of stones, focal renal lesions, or 
hydronephrosis. There 
are no urothelial lesions in the kidneys or ureters. There is no 
perinephric 
abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  There is no 
evidence of 
gastric outlet obstruction.  First and second portions of the 
duodenum are 
displaced laterally due to mass effect from the 
pancreatic/peripancreatic mass 
described above.  Small bowel loops otherwise demonstrate normal 
caliber, wall 
thickness and enhancement throughout. Colon and rectum are 
within normal 
limits.  Appendix contains air, has normal caliber without 
evidence of fat 
stranding.  There is no evidence of mesenteric lymphadenopathy. 
  
RETROPERITONEUM: There is no evidence of retroperitoneal 
lymphadenopathy. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
evidence of pelvic or inguinal lymphadenopathy.  There is no 
free fluid in the 
pelvis. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable. 
  
VASCULAR: 
There is moderate calcium burden in the abdominal aorta and 
great abdominal 
arteries. There is no abdominal aortic aneurysm. Mesenteric 
arteries are 
normal in caliber and patent.  The gastroduodenal artery courses 
along the 
anteromedial aspect of the pancreatic/peripancreatic mass with 
mild change in 
caliber without occlusion. 
Portal vein, SMV and splenic vein are normal in caliber and 
patent. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. Pancreatic atrophy and diffuse parenchymal and intraductal 
calcifications 
suggestive of chronic pancreatitis. 
2. Lobulated hypodense mass within the pancreaticoduodenal 
groove measuring up 
to 4.8 cm as described most likely represents walled-off 
necrosis or 
pseudocyst.  Primary pancreatic malignancy is less favored.  
Correlation with 
biopsy results is recommended. 
3. Interval placement of a biliary stent with resolution of 
biliary 
obstruction. 
4. 3.5 cm ill-defined enhancing mass in the liver at the dome 
may represent a 
focal nodular hyperplasia.  Liver MRI is recommended for further 

characterization. 
  
Discharge Labs 

___ 07:20AM BLOOD WBC-7.1 RBC-3.94* Hgb-11.1* Hct-33.9* 
MCV-86 MCH-28.2 MCHC-32.7 RDW-14.2 RDWSD-44.9 Plt ___
___ 11:01AM BLOOD ___ PTT-35.1 ___
___ 07:20AM BLOOD Glucose-158* UreaN-9 Creat-0.7 Na-136 
K-3.8 Cl-97 HCO3-25 AnGap-14
___ 07:20AM BLOOD ALT-102* AST-111* AlkPhos-394* 
TotBili-6.2*
___ 07:20AM BLOOD Calcium-8.0* Phos-2.7 Mg-2.0
___ 07:20AM BLOOD CEA-3.___ year old male with history of chronic pancreatitis who
presented to ___ for abdominal pain and transferred for
ERCP for bile duct obstruction now s/p sphincterotomy and 
plastic stent placement.

# Bile duct obstruction
# Transamnitis
# Jaundice
#Mass at the head of pancreas
#Abdominal Pain  
Presented with abdominal pain found to have elevated bilirubin 
and LFTS. He underwent an ERCP which was remarkable for 4 cm 
mass lesion at the pancreatic head. EUS biopsy was done and 
pathology is pending.   Question malignancy versus
inflammation. A 2 cm distal CBD stricture was noted.  
Sphincterotomy, cytology
brushings, and plastic stent placement performed. After the 
procedure he tolerated a normal diet without complication. Given 
it was unclear if this was cholangitis he was prescribed 
ciprofloxacin to complete a course. his LFTS were downtrending. 
He will need the stent removed in 4 weeks. He was given the name 
of ___ gastroenterologist in ___. He underwent a CT scan to 
help characterize the mass. It was read as "Lobulated hypodense 
mass within the pancreaticoduodenal groove measuring up to 4.8 
cm as described most likely represents walled-off necrosis or 
pseudocyst.  Primary pancreatic malignancy is less favored.  
Correlation with 
biopsy results is recommended". He will need close follow up 
with his gastroenterologist. his statin was held until he has 
his LFTs rechecked.  
[] F/u Brushings 
[] F/u EUS Biopsies 
[] Needs stent removed in 4 weeks 
[] Complete 5 days cipro 
[] Have LFTs rechecked in one week 

#Possible Liver Mass 
Seen on CT will need an MRI to better characterize. Gave the 
patient a CD with his imaged on them to give to his PCP. 

# Hyperlipidemia: will hold home statin

# Hypothyroidism: continue home levothyroxine

>30 minutes Spent on Complex discharge 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 175 mcg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO QPM 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*8 Tablet Refills:*0 
2.  Levothyroxine Sodium 175 mcg PO DAILY  
3. HELD- Rosuvastatin Calcium 20 mg PO QPM  This medication was 
held. Do not restart Rosuvastatin Calcium until you have your 
liver function tests rechecked 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Biliary Obstruction 
#Chronic Pancreatitis 
#Pseudocyst 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after you were found to have obstruction of 
your bile duct. You underwent a procedure called ERCP(Endoscopic 
retrograde cholangiopancreatography). During this procedure you 
were found to have a mass at the head of the pancreas causing 
the obstruction. You had a stent placed to help bile drain. You 
will need this stent removed in 4 weeks. There is a 
gastroenterologist near your home named Dr. ___ 
should follow up with. You had several biopsies taken with the 
results pending. We will call you with the results. 

You had a CT scan which showed this mass is likely from chronic 
pancreatitis. You should follow closely with your GI doctor. You 
were also incidentally found to have a possible mass near the 
dome of the liver.  You will need an MRI of the liver to 
determine what this is. 

We wish you the best, 
Your ___ Team 
 
Followup Instructions:
___